US05569664
A stirred solution of 0.22 gram (0.0012 mole) of 3-chloro-4-methoxybenzoic acid in a small amount of tetrahydrofuran and chloroform was cooled to 0° C., and 0.12 mL (0.0014 mole) of oxalyl chloride was added dropwise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature, where it was stirred for about 3.5 hours. After this time the reaction mixture was concentrated under reduced pressure, yielding 3-chloro-4-methoxybenzoyl chloride, which was dissolved in a small amount of tetrahydrofuran for later use.

reactant | 3-chloro-4-methoxybenzoic acid | 0.0012 mole, 0.22 gram | ClC=1C=C(C(=O)O)C=CC1OC | C8H7ClO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.0014 mole, 0.12 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-4-methoxybenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1OC | C8H6Cl2O2
